US07314884B2
Step A]: (S)-{2-[6-(4-Methoxy-phenyl)-indol-1-yl]-1-methyl-ethyl}-carbamic acid tert-butyl ester
This compound was synthesized from 6-(4-methoxy-phenyl)-indole (synthesized from 6-bromo-indole according to Carrera, G. M. et al. Synlett 1994, 1, 93-94) and (S)-4-methyl-2,2-dioxo-[1,2,3] oxathiazolidine-3-carboxylic acid tert-butyl ester as described in example 4, step A].

reactant | 6-(4-methoxy-phenyl)-indole | COC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C15H13NO
reactant | (S)-4-methyl-2,2-dioxo-[1,2,3] oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(OC[C@@H]1C)(=O)=O | C8H15NO5S
product | (S)-{2-[6-(4-Methoxy-phenyl)-indol-1-yl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](CN1C=CC2=CC=C(C=C12)C1=CC=C(C=C1)OC)C)=O | C23H28N2O3
